US04927838
As in Example 113, (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid (0.982 g) was reacted with 4-nitrophenol (0.493 g) in dichloromethane (10 mL) in the presence of 1,3-dicyclohexylcarbodiimide (606 g) at room temperature overnight. The usual work up provided 1.2 g of (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester.

reactant | (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid | 0.982 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)/C=C/C(=O)O | C21H18O4
reactant | 4-nitrophenol | 0.493 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 606 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-3-[7-methoxy-1-(3-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC(=CC=C2C=C1)OC)C1=CC(=CC=C1)OC)=O | C27H21NO6
